US09034900B2
Step 1: 4-chloro-2-methyl-2,6-naphthyridin-1-one
N-chlorosuccinimide (0.8 g, 6.2 mmol) was added in portions to a solution of 2-methyl-2,6-naphthyridin-1-one (1.0 g, 6.2 mmol) in acetonitrile (25 mL) which was then heated at 65° C. for 18 h. Extractive work up with ethyl acetate and purification by silica gel chromatography (PE:EA=5:1-1:1) gave the title compound of step 1 (0.6 g, 56%) as a yellow solid. 1H NMR: (CDCl3, 400 MHz) δ 9.29 (s, 1H), 8.81 (d, J=3.6 Hz, 1H), 8.21 (d, J=5.2 Hz, 1H), 7.31 (s, 1H), 3.63 (s, 3H). LCMS: 195.0 (M+H)+.

reactant | N-chlorosuccinimide | 6.2 mmol, 0.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-methyl-2,6-naphthyridin-1-one | 6.2 mmol, 1.0 g | CN1C(C2=CC=NC=C2C=C1)=O | C9H8N2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-chloro-2-methyl-2,6-naphthyridin-1-one | 0.6 g, 56% | ClC1=CN(C(C2=CC=NC=C12)=O)C | C9H7ClN2O
